US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with 3-methoxy-propylamine following general procedure B to afford 8-methoxy-4-(3-methoxy-propyl-amino)-quinoline-3-carboxylic acid ethyl ester (260 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (180 mg) following general procedure E. The above ethylamide (0.57 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-7-methoxy-1-(3-methoxy-propyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (35 mg). LCMS: m/z 344 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 3-methoxy-propylamine | COCCCN | C4H11NO
product | 8-methoxy-4-(3-methoxy-propyl-amino)-quinoline-3-carboxylic acid ethyl ester | 260 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCOC)OC | C17H22N2O4
